US07517994B2
Step A: Preparation of ethyl 2-(2-methylhydrazono)propanoate:
To a suspension of ethyl pyruvate (37.8 mL, 338 mmol) and MgSO4 (40.8 g, 339 mmol) in CHCl3 (500 mL) was added a solution of methylhydrazine (18.0 mL, 332 mmol) in CHCl3 (100 mL) at 0° C. The reaction mixture was warmed to room temperature. After stirring for 24 hours at room temperature, the reaction mixture was filtered. The filtrate was concentrated under reduced pressure to give 44 g (94%) of the desired product that was used directly without further purification.

reactant | ethyl pyruvate | 338 mmol, 37.8 mL | C(C(=O)C)(=O)OCC | C5H8O3
reactant | MgSO4 | 339 mmol, 40.8 g | [O-]S(=O)(=O)[O-].[Mg+2]
reactant | methylhydrazine | 332 mmol, 18.0 mL | CNN | CH6N2
solvent | CHCl3 | 500 mL | C(Cl)(Cl)Cl | CHCl3
solvent | CHCl3 | 100 mL | C(Cl)(Cl)Cl | CHCl3
product | ethyl 2-(2-methylhydrazono)propanoate | 44 g, 94% | CNN=C(C(=O)OCC)C | C6H12N2O2
